US07144888B2
N-{2-[6-(Quinolin-7-yloxy)-pyrimidin-4-yl]-5-trifluoromethyl-phenyl}-benzenesulfonamide.
The title compound was prepared from 2-[6-(quinolin-7-yloxy)-pyrimidin-4-yl]-5-trifluoromethyl-phenylamine, (Example 163) and phenylsulfonyl chloride (Aldrich) analogous to the conditions described in Example 172. Mp: 168–170° C. MS (ESI, pos. ion) m/z: 523.1 (M+1).

reactant | 2-[6-(quinolin-7-yloxy)-pyrimidin-4-yl]-5-trifluoromethyl-phenylamine | N1=CC=CC2=CC=C(C=C12)OC1=CC(=NC=N1)C1=C(C=C(C=C1)C(F)(F)F)N | C20H13F3N4O
reactant | phenylsulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-{2-[6-(Quinolin-7-yloxy)-pyrimidin-4-yl]-5-trifluoromethyl-phenyl}-benzenesulfonamide | N1=CC=CC2=CC=C(C=C12)OC1=CC(=NC=N1)C1=C(C=C(C=C1)C(F)(F)F)NS(=O)(=O)C1=CC=CC=C1 | C26H17F3N4O3S
